.subckt fizocursodespice 1 2 3
R1 1 2 1k
D1 3 2 D
C1 3 1 1n
.model D D
.lib C:\users\certorio\My Documents\LTspiceXVII\lib\cmp\standard.dio
.ends fizocursodespice
